US08809324B2
3a-Aminohexahydro-2,5-methanopentalene-2-carboxamide
(2-Carbamoylhexahydro-2,5-methanopentalen-3a-yl)carbamic acid tert-butyl ester (1.8 g) dissolved in dichloromethane (50 ml), 11 equivalents of HCl (4M in dioxane) added and the mixture stirred at room temperature overnight. LCMS: amine is fully deprotected. The reaction solution was concentrated by rotary evaporation, the HCl salt of the amine was released with 50 ml of saturated Na2CO3 solution+3 ml of 2M NaOH, and the mixture was extracted a total of 8 times with 20 ml of dichloromethane and once with EtOAc. The organic solutions were combined, dried over MgSO4, filtered, concentrated by rotary evaporation and dried under high vacuum. The residue (0.91 g) was used further without further workup.

reactant | (2-Carbamoylhexahydro-2,5-methanopentalen-3a-yl)carbamic acid tert-butyl ester | 1.8 g | C(C)(C)(C)OC(NC12CC3(CC2CC(C1)C3)C(N)=O)=O | C15H24N2O3
reactant | HCl | 4M, 11 equivalents | Cl | ClH
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3a-Aminohexahydro-2,5-methanopentalene-2-carboxamide | NC12CC3(CC2CC(C1)C3)C(=O)N | C10H16N2O
